US04038065
1-(n-decyl)-3-cyano-4,6-dimethylpyrid-2-one (94.6 g., 0.33 mole) is dissolved in concentrated sulfuric acid (300 ml.) and crushed ice (90 g.) is slowly added while maintaining the reaction temperature below 75° C. The reaction mixture is then heated on a steam bath for 23 hours. The cooled reaction mixture is poured onto ice (700 g.) and the reaction mixture is diluted to 2300 ml. with water. The solid is collected by filtration and then triturated with dilute sodium hydroxide and filtered. The alkaline filtrate is acidified to pH 1 with concentrated hydrochloric acid. The resulting solid is collected by filtration and vacuum dried to give 1-(n-decyl)-3-carboxy-4,6-dimethylpyrid-2-one, 62.1 g. mp. 67.5°-72° C. The solid when recrystallized from methanol has a mp. of 74°-76.5° C.

reactant | 1-(n-decyl)-3-cyano-4,6-dimethylpyrid-2-one | 0.33 mole, 94.6 g | C(CCCCCCCCC)N1C(C(=C(C=C1C)C)C#N)=O | C18H28N2O
reactant | water | O | H2O
reactant | sulfuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(n-decyl)-3-carboxy-4,6-dimethylpyrid-2-one | C(CCCCCCCCC)N1C(C(=C(C=C1C)C)C(=O)O)=O | C18H29NO3
